Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea/hypertension 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o HTN, DMII, Stroke, pAfib, who 
developed worsening dyspnea, orthopnea over the past week. Many 
of her colleagues have had URIs. On ___ she had chest 
tightness (elephant sitting on her chest) associated with 
dyspnea and on ___ became acutely worse. She called ___ and 
EMS placed the patient initially on BIPAP, gave her 
nitroglycerin with improvement in her blood pressure. After 
arrival to ___, she continued to require BIPAP and received IV 
Lasix. She ultimately received 180mg IV Lasix and diuresed 
2200+CC in the ER. Cardiology saw her in the ED, and she was 
weaned off the BIPAP and stable on room air prior to transfer to 
the floor. In the ED she denied any fever, chills, but did have 
+cough. No abdominal pain/dysuria/leg swelling.

In the ED, initial vitals were:
___ RA
- Labs notable for:
Hgb 13.2, WBC 8.4
Cr 1.0
D dimer 515, trop < 0.01
- Imaging was notable for:
___: CXR
Lung volumes are slightly low with bibasilar atelectasis. There 
is no pulmonary edema, pleural effusion, or pneumothorax. 
Cardiomediastinal. Silhouette is stable.

IMPRESSION:
Slightly low lung volumes with bibasilar atelectasis.
- Cardiology saw patient in ED

- Patient was given:
___ 23:20 IV Furosemide 80 mg
___ 23:59 IV DRIP Nitroglycerin
___ 01:48 IV Furosemide 100 mg
___ 07:39 PO Isosorbide Mononitrate (Extended Release) 60 
mg ___ 07:39 PO NIFEdipine CR 60 mg
___ 10:03 SC Insulin 25 UNIT ___ 12:00 IV DRIP 
Nitroglycerin
___ 20:33 PO/NG Labetalol 300 mg ___ 20:36 PO/NG 
Aspirin 81 mg
- Vitals prior to transfer:
107 137/87 16 95% RA
Upon arrival to the floor, patient reports feeling significantly 
improved. She confirms the ED history including no fever, 
chills, nausea, vomiting, abdominal pain, current chest pain, 
changes in bowel habits. She notes her orthopnea is dramatically 
improved although she still feels slightly short of breath and 
notes that her abdomen is distended more than usual. She notes 
prior to feeling unwell she had a number of friends develop 
URIs, and her symptoms were initially similar until her 
respiratory decompensation. REVIEW OF SYSTEMS:
(+) Per HPI
 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- AFib on rivaroxaban
3. OTHER MEDICAL HISTORY
-CVA ___ (no residual deficits)
-History of hyperparathyroidism, s/p parathyroidectomy ___
-Chronic back pain
-Anterior ___ mass s/p resection in ___
 
Social History:
___
Family History:
Mother - liver, colon cancer  
Father - HTN, DM , CHF 
Children - no medical issues, good health  

 
Physical Exam:
===============================
 ADMISSION PHYSICAL EXAM:
===============================
Vital Signs: 143 / 99 93 18 97 RA
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple. JVP of 14cm.
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops. 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi 
Abdomen: Distended, normoactive BS, nontender.
GU: No foley Ext: Warm, well perfused, trace edema
Neuro: gait deferred, FROM x 4
 
===============================
 DISCHARGE PHYSICAL EXAM:
===============================
VS: 97.9PO BP: 139/90 (139-153/81-100) L Lying HR: 76 18 98 RA 
Weight: 86 kg <- 84.4 kg <- 84.6kg (admit wt: 85.73) 
I/O: 8h ___ (not recorded) ; 24h 491/800 
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate. 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink. No xanthelasma. 
NECK: Supple with JVP of 8 cm with hepatojugular reflux 
sustained 
CARDIAC: irregular, normal S1, S2. No m/r/g. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi. 
ABDOMEN: Soft, NTND. 
EXTREMITIES: No c/c/e. 
GU: no foley 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
 
Pertinent Results:
===============================
 ADMISSION LABS:
===============================
___ 10:59PM BLOOD WBC-8.4 RBC-4.86# Hgb-13.2# Hct-43.1# 
MCV-89 MCH-27.2 MCHC-30.6* RDW-13.8 RDWSD-44.5 Plt ___
___ 10:59PM BLOOD Neuts-67.6 ___ Monos-6.2 Eos-3.0 
Baso-0.7 Im ___ AbsNeut-5.70# AbsLymp-1.85 AbsMono-0.52 
AbsEos-0.25 AbsBaso-0.06
___ 06:40AM BLOOD ___ PTT-30.0 ___
___ 10:59PM BLOOD Glucose-193* UreaN-12 Creat-1.0 Na-143 
K-4.2 Cl-101 HCO3-29 AnGap-17
___ 10:59PM BLOOD cTropnT-<0.01
___ 06:45AM BLOOD CK-MB-2 cTropnT-<0.01
___ 10:59PM BLOOD D-Dimer-515*
 
===============================
 KEY INTERVAL LABS:
===============================
___ ALDOSTERONE:   12 ng/dL
___ PLASMA RENIN ACTIVITY:   0.25 ng/mL/h
 
===============================
 MICROBIOLOGY:
===============================
___ 2:17 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          KLEBSIELLA PNEUMONIAE
                             |          |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I      <=2 S
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------    32 S       64 I
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----  =>16 R      <=1 S 

===============================
 IMAGING:
===============================
___ CXR: 
Slightly low lung volumes with bibasilar atelectasis. 
___ TTE: The left atrium is mildly dilated. No atrial 
septal defect is seen by 2D or color Doppler. There is moderate 
symmetric left ventricular hypertrophy. The left ventricular 
cavity size is normal. Overall left ventricular systolic 
function is moderately depressed (LVEF= 35-40%) with global 
hypokinesis and regional inferior near akinesis. No masses or 
thrombi are seen in the left ventricle. There is no ventricular 
septal defect. Right ventricular chamber size is normal with 
mild global free wall hypokinesis. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Moderate (2+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion.   

===============================
 DISCHARGE LABS:
===============================

___ 06:45AM BLOOD CK-MB-2 cTropnT-<0.01
___ 10:59PM BLOOD cTropnT-<0.01
___ 06:45AM BLOOD CK(CPK)-206*
___ 06:40AM BLOOD %HbA1c-6.3* eAG-134*
 
Brief Hospital Course:
___ y/o HTN, DMII, Stroke, pAfib, who developed worsening 
dyspnea, orthopnea over the past week, presenting with acute 
dyspnea and hypertension suggestive of CHF exacerbation w/flash 
pulmonary edema, now improving s/p diuresis and with blood 
pressure control and UTI tx. 

# CORONARIES: Nonobstructive CAD (___), pmibi ___ (41% EF)
# PUMP: EF to 45-50% (___)
# RHYTHM: AFib on rivarox 

==============================
 ACTIVE ISSUES:
===============================
# acute exacerbation of chronic diastolic heart failure
#CHF exacerbation (preserved EF acute on chronic, based on ___ 
TTE): Patient w/evidence of CHF exacerbation which may have been 
triggered by uncontrolled hypertension vs infection (URI vs UTI) 
vs hypoglycemia; prior evaluation of secondary hypertension 
including negative for pheo. CXR w/o PNA just treating cough 
with Benzonatate. Trop negative x1 without ioschemic changes, no 
palpitations or indication of uncontrolled afib. PRELOAD: held 
initially then restarted at 40qday goal. Please recheck 
electrolytes in 1 week given diuretic changes. AFTERLOAD: 
Irbesartan NOT on formulary, started on Losartan 100mg daily, 
consider transition as outpatient. Neurohormonal blockade: 
switched beta blocker to carvedilol, spironolactone.
 
# Urinary Tract Infection: Likely cause of exacerbation on 
CefTRIAXone 1 gm IV Q24H day ___ = ___, discharged on 4 days of 
cefpodoxime for UTI, cultures were pending on discharge. 
 
#Acute Kidney Injury: suspect hypovolemia rather than 
cardiorenal given downtrending with holding of diuretic, stable 
at discharge. Creatinine 1.1 at discharge

# Atrial Fibrillation (CHADS-VASC of 7):
Patient was unclear in the ED if she is on her rivaroxaban, 
however with a CHADS-VASC of 7, her yearly stroke risk is 11.2%. 
The medication is documented in her ___ record. On further 
discussion with her she notes that in the distant past she was 
on pradaxa and this was switched to rivaroxaban which she is 
taking. 
- anticoagulation: Rivaroxaban 20mg QHS
- rate control: Switched home labetalol to coreg 50mg BID

# Hypertension
Patient presented with hypertensive urgency, now improved. 
Continuing home medications, but fractionated. Has hx of 
___ elevation (44.3), however ___ level was low. Renal 
US negative for renal stenosis. ___ ratio (drawn before 
starting spironolactone) is pending on discharge. Started on 
Coreg 50mg BID. Irbesartan 300mg qHS on hold due to not on 
formulary, will place on Losartan. (Could also consider 
telmisartan as outpatient if covered by insurance). Held home 
calcium channel blocker as above, increased amlodipine to 10mg 
daily on ___. Continued home nitrate (Isosorbide Mononitrate 
(Extended Release) 60 mg PO QHS) as well given stable BPs. 
Started spironolactone ___ after drawing ___ labs. 
Recommend calibrating home BP cuff to office 

# Coronary Artery Disease:
Stable. No evidence of acute ischemia, no chest pain, troponin 
is negative. Continued ASA 81mg. Switched Simvastatin 80mg PO 
QPM to atorva 40 given interaction with amlodipine. Trops 
negative x2. Consider stress test as outpatient given new 
regional wall motion abnormality on echo. 

# Diabetes Mellitus Type II: Concern for hypoglycemia. A1c of 
6.3%. Decreased home 70/30 due to hypoglycemia fasting, held 
home liraglutide. Diabetic/heart healthy diet. 

# Hyperlipidemia:
Stable. Continued simvastatin 

=============================
 TRANSITIONAL ISSUES:
=============================
- Please follow up angiotensin renin ratio (ordered prior to 
starting spironolactone)
- Switched nifedipine to amlodipine. Switched simvastatin to 
atorvastatin given interaction with amlodipine. 
- Started spironolactone
- Increased torsemide to 40qday
- Switched beta blocker to carvedilol 
- Please recheck electrolytes in 1 week given diuretic changes
- Decreased home insulin and held home liraglutide given 
inpatient lows on home insulin regimen. Please titrate diabetic 
medications. 
- Recommend stress mibi as outpatient given new regional wall 
motion abnormality on echo
- Recommend re-addressing goals of care. Patient is full code 
for now but would like to think about it. 
- Recommend calibration of home BP cuff with office 
measurements.
- Discharged on 4 days of cefpodoxime for UTI. Please follow up 
culture. 

Proxy name: ___
Relationship: daughter Phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. liraglutide 1.2 mg subcutaneous DAILY 
3. Vitamin E 400 UNIT PO DAILY 
4. irbesartan 300 mg oral QHS 
5. Isosorbide Mononitrate (Extended Release) 60 mg PO QHS 
6. Labetalol 300 mg PO TID 
7. NIFEdipine CR 60 mg PO QHS 
8. Simvastatin 80 mg PO QPM 
9. Torsemide 20 mg PO DAILY 
10. 70/30 25 Units Breakfast
70/30 35 Units Bedtime
11. Rivaroxaban 20 mg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Carvedilol 50 mg PO BID 
RX *carvedilol 25 mg 2 tablet(s) by mouth twice a day Disp #*120 
Tablet Refills:*0 
4.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 4 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*8 Tablet Refills:*0 
5.  Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
6.  70/30 18 Units Breakfast
70/30 26 Units Bedtime 
7.  Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
8.  Aspirin 81 mg PO DAILY  
9.  irbesartan 300 mg oral QHS  
10.  Isosorbide Mononitrate (Extended Release) 60 mg PO QHS  
11.  Rivaroxaban 20 mg PO DAILY  
12.  Vitamin D ___ UNIT PO DAILY  
13.  Vitamin E 400 UNIT PO DAILY  
14. HELD- liraglutide 1.2 mg subcutaneous DAILY  This medication 
was held. Do not restart liraglutide until outpatient diabetes 
follow-up

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
acute exacerbation of chronic diastolic heart failure
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had trouble breathing.   

What happened while I was in the hospital?  
- You had fluid removed with diuretics, that helped your 
breathing. Your high blood pressure was treated. We also treated 
your UTI. 
- We did an echocardiogram (ultrasound of your heart) which 
showed a decrease in the ejection fraction (which measures your 
heart's pumping function). 

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 
- Please decrease your insulin to 18 in the morning and 26 at 
night and do not take your liraglutide until you see your 
primary care doctor. 
- It is VERY IMPORTANT that you call your primary doctor and 
cardiologist to make follow-up appointments. 
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  

 
Followup Instructions:
___